US07495103B2
To a refluxing solution of 2-tert-butyl-5-nitrophenol (C-1-a) (196 mg, 1.0 mmol) in EtOH (10 mL) was added ammonium formate (200 mg, 3.1 mmol), followed by 140 mg of 10% Pd-C. The reaction mixture was refluxed for additional 30 min, cooled to room temperature and filtered through a plug of Celite. The filtrate was concentrated to dryness and purified by column chromatography (20-30% EtOAc-Hexane) to give 2-tert-butyl-5-aminophenol (C-1) (144 mg, 87%). 1H NMR (400 MHz, DMSO-d6) δ 8.76 (s, 1H), 6.74 (d, J=8.3 Hz, 1H), 6.04 (d, J=2.3 Hz, 1H), 5.93 (dd, J=8.2, 2.3 Hz, 1H), 4.67 (s, 2H), 1.26 (s, 9H); HPLC ret. time 2.26 min, 10-99% CH3CN, 5 min run; ESI-MS 166.1 m/z (MH+).

reactant | 2-tert-butyl-5-nitrophenol | 1.0 mmol, 196 mg | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])O | C10H13NO3
reactant | ammonium formate | 3.1 mmol, 200 mg | C(=O)[O-].[NH4+]
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd-C | 140 mg | [Pd] | Pd
product | 2-tert-butyl-5-aminophenol | 144 mg, 87% | C(C)(C)(C)C1=C(C=C(C=C1)N)O | C10H15NO
